US04187379
A mixture of 68 g of 3-(3-ethoxyphenoxy)pyridine 1-oxide and 40 g of dimethylsulfate is heated at 100° C. for 4 hours. The 3-(3-ethoxyphenoxy)-1-methoxy pyridinium methosulfate is dissolved in 200 ml of water and is added dropwise to a cooled, stirred solution of 75 g sodium cyamide in 200 ml of water at 0°-5° C. under a nitrogen atmosphere. The mixture is stirred 16 hours and is extracted with 500 ml of dichloromethane. The dichloromethane layer is washed with 100 ml of water, dried, concentrated and distilled to yield 3-(3-ethoxyphenoxy)-2-pyridinecarbonitrile, bp 145°-150° C. at 0.2 mM, mp 83°-84° C. after recrystallization from methanol.

reactant | 3-(3-ethoxyphenoxy)pyridine 1-oxide | 68 g | C(C)OC=1C=C(OC=2C=[N+](C=CC2)[O-])C=CC1 | C13H13NO3
reactant | dimethylsulfate | 40 g | COS(=O)(=O)OC | C2H6O4S
reactant | 3-(3-ethoxyphenoxy)-1-methoxy pyridinium | C(C)OC=1C=C(OC=2C=[N+](C=CC2)OC)C=CC1
reactant | sodium | 75 g | [Na] | Na
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 3-(3-ethoxyphenoxy)-2-pyridinecarbonitrile | C(C)OC=1C=C(OC=2C(=NC=CC2)C#N)C=CC1 | C14H12N2O2
